US07659267B2
Methyl 2-(benzoylamino)-3-(3-cyanophenyl)-2-propenoate
A suspension of 3-[(5-oxo-2-phenyl-1,3-oxazol-4(5H)-ylidene)-methyl]benzonitrile (1.98 g, 9.01 mmol) and sodium carbonate (26 mg, 0.25 mmol) in methanol was heated under reflux for 2.5 hours. After the reaction mixture was concentrated under reduced pressure, ethyl acetate and water were added to the residue to separate the organic layer. The aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with water and concentrated under reduced pressure. The residue was applied to silica gel column chromatography (gradient elution with hexane-ethyl acetate from 80:20 to 33:67) and recrystallized from acetone-diisopropyl ether to give the title compound (1.63 g, 74%).

reactant | 3-[(5-oxo-2-phenyl-1,3-oxazol-4(5H)-ylidene)-methyl]benzonitrile | 9.01 mmol, 1.98 g | O=C1C(N=C(O1)C1=CC=CC=C1)=CC=1C=C(C#N)C=CC1 | C17H10N2O2
reactant | sodium carbonate | 0.25 mmol, 26 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | methanol | CO | CH4O
product | Methyl 2-(benzoylamino)-3-(3-cyanophenyl)-2-propenoate | 1.63 g, 74% | C(C1=CC=CC=C1)(=O)NC(C(=O)OC)=CC1=CC(=CC=C1)C#N | C18H14N2O3
